US08133909B2
(S)—N-(2,2-Dimethyl-benzo[1,3]dioxol-5-yl)-2-hydroxy-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 55, 2,2-Dimethyl-benzo[1,3]dioxol-5-ylamine, (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (S)-(+)-O-acetyl-L-mandelic acid were successively coupled then hydrolysed to give the target compound. MS(m/e): 473.1 [M+H]+.

reactant | 2,2-Dimethyl-benzo[1,3]dioxol-5-ylamine | CC1(OC2=C(O1)C=CC(=C2)N)C | C9H11NO2
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)—N-(2,2-Dimethyl-benzo[1,3]dioxol-5-yl)-2-hydroxy-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | CC1(OC2=C(O1)C=CC(=C2)N(C([C@H](C2=CC=CC=C2)O)=O)CCC=2C=NC(=CC2)C(F)(F)F)C | C25H23F3N2O4
